US06624159B2
(5-Iodo-2,3-dihydro-1H-indol-2-yl)methyl acetate [G.5]
A 30% wt solution containing HBr in acetic acid (25 mL) is added to a flask containing benzyl 2-(hydroxymethyl)-5-iodo-1-indolinecarboxylate (Preparation 8, 6.03 g). All of the solids are dissolved and the solution is concentrated to give a brown solid. The crude product is taken into CH2Cl2 with a small amount of methanol and triethylamine and purified by column chromatography eluting with heptane (250 mL), 20% EtOAc in heptane (500 mL), and 40% EtOAc in heptane to give 3.92 g (84%) of the title compound as a red solid. Physical characteristics: M.p. 64-66° C.; HRMS (FAB) m/z 318.0006 (C11H12INO2+H). Anal. Found: C, 41.91; H, 3.85; N, 4.35.

reactant | HBr | Br | BrH
reactant | benzyl 2-(hydroxymethyl)-5-iodo-1-indolinecarboxylate | 6.03 g | OCC1N(C2=CC=C(C=C2C1)I)C(=O)OCC1=CC=CC=C1 | C17H16INO3
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (5-Iodo-2,3-dihydro-1H-indol-2-yl)methyl acetate | 3.92 g, 84% | C(C)(=O)OCC1NC2=CC=C(C=C2C1)I | C11H12INO2
